US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethyl)benzamide (CJS 3687)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-(trifluoromethyl)benzoyl chloride to afford the title compound as an off-white solid (17 mg, 32%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=6.0 Hz), 6.94 (d, 1H, Harom, J=8.0 Hz), 7.44 (ps t, 1H, Harom, J=8.0 Hz), 7.62 (s, 1H, Harom), 7.66 (d, 1H, Harom, J=7.5 Hz), 7.72-7.82 (m, 2H, Harom+Py,6), 7.96 (d, 1H, Harom, J=8.0 Hz), 8.24 (d, 1H, Harom, J=7.5 Hz), 8.26 (s, 1H, Harom), 10.55 (s, 1H, NHamide), 11.20 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.62, 110.87, 113.79, 114.73, 116.37, 123.93, 124.26, 128.28, 129.19, 129.75, 130.25, 131.85, 135.54, 140.48, 141.35, 144.55, 147.17, 154.21, 154.78, 164.22. HRMS (EI): m/z [M+H] calcd for C20H14F3N4O3: 415.1018; found: 415.1010.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethyl)benzamide | 17 mg, 32% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)N1 | C20H13F3N4O3
